US08168668B2
29) 2-methylnicotinamide
To a solution of 2-methylnicotinic acid (0.537 mg, 3.9 mmol) in 20 mL of DMF at 0° C. was added HATU (1.56 g, 4.1 mmol) followed by the dropwise addition of DIPEA (0.72 ml, 4.1 mmol). NH3 (g) was then bubbled into the solution for 15 mins. The reaction was allowed to stir overnight. The resulting paste was filtered and rinsed with cold DMF and discarded. The mother liquor was concentrated and purified by normal phase chromatography using CH2Cl2/7 N NH3 in MeOH: 93/7 as eluent. Yielded a white solid (405 mg, 76%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.34 (s, 9 H), 1.36 (d, J=6.64 Hz, 3H), 2.56 (s, 3 H), 4.32-4.40 (m, 1 H), 7.15-7.19 (m, J=8.20 Hz, 1 H), 7.68 (d, J=8.20 Hz, 1 H)

reactant | 2-methylnicotinic acid | 3.9 mmol, 0.537 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | HATU | 4.1 mmol, 1.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.1 mmol, 0.72 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-methylnicotinamide | 405 mg, 76% | CC1=C(C(=O)N)C=CC=N1 | C7H8N2O
